* Generated by electronics_design from a KiCad schematic
.include "mult.lib"
V2 in1 0 SINE(0 1 2k)
V1 in2 0 SINE(0 1 1k)
XA1 in1 in2 out mult
R1 out 0 1k
.tran 1u 10m
.backanno
.end
